US07790741B2
Step B: 6-(2,4-Difluorophenyl)-5-iodoimidazo[2,1-b]thiazole
NIS (5.56 g, 24.7 mmol) was added to 6-(2,4-difluorophenyl)imidazo[2,1-b]thiazole (5.84 g, 24.7 mmol) in DMF (60 mL) then stirred at ambient temperature for about 30 min. The mixture was diluted with water (about 500 mL), filtered, and washed with Et2O to give the title compound (5.17 g, 57.8%): LC/MS (Table 1, Method a) Rt=2.13 min; MS m/z: 363.0 (M+H)+.

reactant | NIS | 24.7 mmol, 5.56 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | 6-(2,4-difluorophenyl)imidazo[2,1-b]thiazole | 24.7 mmol, 5.84 g | FC1=C(C=CC(=C1)F)C=1N=C2SC=CN2C1 | C11H6F2N2S
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | water | about 500 mL | O | H2O
product | 6-(2,4-Difluorophenyl)-5-iodoimidazo[2,1-b]thiazole | 5.17 g, 57.8% | FC1=C(C=CC(=C1)F)C=1N=C2SC=CN2C1I | C11H5F2IN2S
